US04102742
0.075M triethanolamine buffer (pH 7.8);
1 mM magnesium sulphate; 3.5 mM NAD; 0.455 mM ATP: 1 U/ml. HK; 1 U/ml. glucose-6-phosphate-dehydrogenase (G-6-P-DH) (leuc.) 0.1% surface-active agent (polyethyleneglycol ether).

reactant | magnesium sulphate | 1 mM | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | NAD | 3.5 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | ATP | 0.455 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | glucose-6-phosphate | C([C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)O)O)O)O)OP(=O)(O)O | C6H13O9P
reactant | G-6-P | C(C(C(C(C(C=O)O)O)O)O)OP(=O)(O)O.[Ba]
product | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
